US08404660B2
The second step was the reaction of furfurylamine (FIG. 1 V) with 4-N-p-toluenesulfonyl-2′-deoxycytidine (FIG. 1 I). The third step was depended on creating of 4-N-furfurylcytosine (FIG. 1 III), by cleavage of N-glycosyl bond by solution of inorganic acid in water (pH of this solution was about 3). When the reaction ended (what confirmed the dark yellow colour of the reaction mixture, the acid was evaporated or neutralised by water solution of sodium hydroxide where the received salt was lost on reverse column. The major product has shown low solubility in all solvents, but the best solubility was observed in water, and increased with temperature. In this reason, purity on the column was performed in warm water (40-45° C.). The column was referred by aluminum foil, because the decrease temperature of water was carried out to precipitate of the product on the gel. The purification of product was performed two times, because acid degradation of ribose gave a lot of byproducts, obstructed purification.

reactant | furfurylamine | C(C1=CC=CO1)N | C5H7NO
reactant | 4-N-p-toluenesulfonyl-2′-deoxycytidine | C1(=CC=C(C=C1)S(=O)(=O)NC1=NC(N([C@H]2C[C@H](O)[C@@H](CO)O2)C=C1)=O)C | C16H19N3O6S
reactant | 4-N-furfurylcytosine | C(C1=CC=CO1)NC1=NC(NC=C1)=O | C9H9N3O2
reactant | water | O | H2O
product | ribose | O=C[C@H](O)[C@H](O)[C@H](O)CO | C5H10O5
